US07109229B2
(b) 3-(5-Trifluoromethyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (208 mg, 1.1 mmol) and methyl 2-(5-trifluoromethyl-1H-indol-3-yl)oxoacetate (300 mg, 1.1 mmol) in DMF (5.4 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (1.1 mL, 1.1 mmol) at 4° C. under N2. The reaction was stirred for 20 min at this temperature, and additional KOtBu (2.2 mL, 2.2 mmol) was added. The resulting dark red solution was heated up to 50° C. over night. The mixture was cooled to room temperature and quenched with 1 N HCl (9 mL) and poured into EtOAc (300 mL). The organic layer was separated, washed with saturated aqueous NaHCO3 (150 mL), and brine (3×150 mL). The solution was dried (MgSO4), filtered, and concentrated to a red solid. Flash chromatography (SiO2, 30% EtOAc/hexanes) gave the title compound (157 mg, 35%) as a red solid, mp 270–280° C. dec. 1H NMR (DMSO-d6) δ 12.24 (s, 1H), 11.26 (s, 1H), 8.11 (s, 1H), 7.63 (m, 1H), 7.55 (m, 1H), 7.27 (m, 2H), 6.92 (m, 2H), 6.65 (s, 1H), 6.49 (s, 1H), 3.73 (s, 3H). MS (ESI): m/z=411 [C22H14F3N3O2+H]+

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 1.1 mmol, 208 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(5-trifluoromethyl-1H-indol-3-yl)oxoacetate | 1.1 mmol, 300 mg | FC(C=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O)(F)F | C12H8F3NO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 1.1 mmol, 1.1 mL | C1CCOC1 | C4H8O
reactant | KOtBu | 2.2 mmol, 2.2 mL | CC(C)(C)[O-].[K+]
solvent | DMF | 5.4 mL | CN(C)C=O | C3H7NO
product | 3-(5-Trifluoromethyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 157 mg, 35% | FC(C=1C=C2C(=CNC2=CC1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O)(F)F | C22H14F3N3O2
